US04654433
α-Pivaloyloxyethyl (S)-3-(3,4-dihydroxyphenyl)-2-methylalaninate
10 grams (0.047 mole) of α-methyldopa, 4.7 grams of powdered 4A molecular sieves, 6.1 grams (0.070 mole) of lithium bromide and 47 milliliters of N-methylpyrrolidinone were stirred for about one hour at 25° C. To this mixture, 8.1 grams (0.049 mole) of α-chloroethyl pivalate was added and the mixture was aged at 55° C. for 8 hours. At the end of this time, the mixture was cooled to 25° C., diluted with 100 milliliters of ethyl acetate and washed successively with one 200 milliliter and two 100 milliliter portions of saturated sodium bicarbonate solution. The combined sodium bicarbonate washes were extracted with two 100 milliliter portions of ethyl acetate and the combined ethyl acetate extracts concentrated under vacuum to 150 milliliters. The assay yield of α-pivaloyloxyethyl (S)-3-(3,4-dihydroxyphenyl)-2-methylalaninate was found to be 14.4 grams or 90 percent of theoretical.

reactant | α-methyldopa | 0.047 mole, 10 grams | C[C@](CC=1C=CC(=C(C1)O)O)(C(=O)O)N | C10H13NO4
reactant | lithium bromide | 0.070 mole, 6.1 grams | [Br-].[Li+]
reactant | N-methylpyrrolidinone | 47 milliliters | CN1C(CCC1)=O | C5H9NO
reactant | α-chloroethyl pivalate | 0.049 mole, 8.1 grams | C(C(C)(C)C)(=O)OC(C)Cl | C7H13ClO2
solvent | ethyl acetate | 100 milliliters | C(C)(=O)OCC | C4H8O2
product | α-Pivaloyloxyethyl (S)-3-(3,4-dihydroxyphenyl)-2-methylalaninate | OC=1C=C(C=CC1O)C[C@](N)(C(=O)OC(C)OC(C(C)(C)C)=O)C | C17H25NO6
